US07652061B2
To a stirred solution of the title D compound, (R)-1-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenylsulfanylcarbonyl]-pyrrolidine-2-carboxylic acid ethyl ester (1.5 g, 3.22 mmol) in methanol (15 mL) is added sodium hydroxide (0.26 g, 6.44 mmol) in water (10 mL) at RT. The reaction mixture is stirred for 4 h. The reaction mixture is concentrated at reduced pressure, poured into water, the aqueous layer is separated, washed with ethyl acetate twice, acidified with concentrated HCl and extracted three times with ethyl acetate. The combined ethyl acetate extract is concentrated and triturated with 1:1 methyl-t-butyl ether and hexane to give (R)-1-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenylsulfanylcarbonyl]-pyrrolidine-2-carboxylic acid as a white solid.

reactant | (R)-1-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenylsulfanylcarbonyl]-pyrrolidine-2-carboxylic acid ethyl ester | 3.22 mmol, 1.5 g | C(C)OC(=O)[C@@H]1N(CCC1)C(=O)SC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H26N2O5S
reactant | sodium hydroxide | 6.44 mmol, 0.26 g | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (R)-1-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenylsulfanylcarbonyl]-pyrrolidine-2-carboxylic acid | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)SC(=O)N1[C@H](CCC1)C(=O)O | C23H22N2O5S
